US09334267B2
1-(3,3-Dimethylbutyl)-3-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea
Treat a solution of prop-1-en-2-yl 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (6.67 g, 19.90 mmol) in dioxane (60 mL) with 3,3-dimethylbutan-1-amine (2.42 g, 23.9 mmol) and 1-methylpyrrolidine (0.169 g, 1.99 mmol) and heat at 75° C. overnight. Cool the mixture to RT, collect the solid via filtration and wash with diethyl ether to obtain the title compound (6.62 g, 88% yield over two steps). MS (m/z): 379.2 (M+1).

reactant | prop-1-en-2-yl 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 19.90 mmol, 6.67 g | FC1=C(C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)NC(OC(=C)C)=O | C17H23BFNO4
reactant | 3,3-dimethylbutan-1-amine | 23.9 mmol, 2.42 g | CC(CCN)(C)C | C6H15N
reactant | 1-methylpyrrolidine | 1.99 mmol, 0.169 g | CN1CCCC1 | C5H11N
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 1-(3,3-Dimethylbutyl)-3-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 6.62 g, 88% yield | CC(CCNC(=O)NC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C)F)(C)C | C20H32BFN2O3
